US07687490B2
N,N-Dimethylaminopyridine (37 mg), 0.133 ml of pyridine, and 0.114 ml of acetic anhydride were added to 3 ml of a solution of 695 mg of 4-nitrobenzyl (1R,5S,6S)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-6-((1R)-1-triethylsilyloxyethyl)-1-carbapen-2-em-3-carboxylate in THF, and the mixture was stirred at room temperature for 1.5 hr. Ethyl acetate was added to the reaction solution, and the mixture was washed with brine, was dried over anhydrous magnesium sulfate, and was filtered. Silica gel (5 g) was added to the filtrate, the mixture was filtered, and the filtrate was concentrated under the reduced pressure to give 730 mg of 4-nitrobenzyl (1R,5S,6S)-2-[[(Z)-2-(4-acetoxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-6-((1R)-1-triethylsilyloxyethyl)-1-carbapen-2-em-3-carboxylate.

reactant | pyridine | 0.133 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.114 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-nitrobenzyl (1R,5S,6S)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-6-((1R)-1-triethylsilyloxyethyl)-1-carbapen-2-em-3-carboxylate | 695 mg | OCC=1N=CSC1\C=C/SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](CC)(CC)CC)=O)C | C29H37N3O7S2Si
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 4-nitrobenzyl (1R,5S,6S)-2-[[(Z)-2-(4-acetoxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-6-((1R)-1-triethylsilyloxyethyl)-1-carbapen-2-em-3-carboxylate | 730 mg | C(C)(=O)OCC=1N=CSC1\C=C/SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](CC)(CC)CC)=O)C | C31H39N3O8S2Si
